US07951801B2
Intermediate 2: 7-fluoro-2,3,4,9-tetrahydro-1H-β-carboline
7-fluoro-2,3,4,9-tetrahydro-1H-β-carboline-1-carboxylic acid (5 g, 21.36 mmol) was suspended in 130 ml of 3N HCl in a 500 ml round-bottom flask and refluxed overnight (16 hr) with stirring. Upon cooling, a light brown solid precipitated out, which was collected by filtration and washed with H2O. The salt obtained by filtration above was then dissolved in hot methanol (200 ml) and treated with 3M K2CO3 (5-10 ml) such that the pH is around 9. 100 ml of H2O was added to this mixture, which was then allowed to stir at RT. The methanol was evaporated on a rotary evaporator to give a white aqueous suspension of the desired free base, which was collected by filtration (3.2 g, 79% yield). 1H-NMR (300 MHz, methanol-d4): δ 2.73 (t, 2H), 3.11 (t, 2H), 3.94 (s, 2H), 6.73 (m, 1H), 6.94 (m, 1H), 7.30 (dd, 1H). Retention Time (LC, method: ammonium acetate standard): 1.25 min. MS (M+H+): 191.1.

reactant | 7-fluoro-2,3,4,9-tetrahydro-1H-β-carboline-1-carboxylic acid | 21.36 mmol, 5 g | FC1=CC=C2C=3CCNC(C3NC2=C1)C(=O)O | C12H11FN2O2
reactant | K2CO3 | 3M, 5-10 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 100 ml | O | H2O
solvent | HCl | 3N, 130 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 7-fluoro-2,3,4,9-tetrahydro-1H-β-carboline | 79% yield | FC1=CC=C2C=3CCNCC3NC2=C1 | C11H11FN2
